US04940703
(c) 4-Aminomethyl-4-hydroxy-1-azabicyclo[3.3.1]nonane
Trimethylsilyl cyanide (3 ml) was added dropwise to a stirred solution of 1-azabicyclo[3.3.1]nonan-4-one (2.5 g) and zinc iodide (0.15 g) in dry dichloromethane (20 ml) and the resulting mixture was heated at reflux for 4 hours. The mixture was cooled and the solvent removed at reduced pressure; the residue was dissolved in dry tetrahydrofuran (20 ml) and cooled to 0° C. A solution of lithium aluminium hydride in tetrahydrofuran (18 ml of 1.0M soln) was then added and the resulting solution stirred overnight at room temperature. Water (0.7 ml), followed by 15% sodium hydroxide (aq) (0.7 ml) and water (2.1 ml) were then added and the precipitate removed by filtration. Evaporation of the filtrate yielded the title compound (2.2 g); δH (360 MHz, CDCl3) 1.2-1.3 (2H, m, CH2), 1.34 (1H, m, CHH), 1.41 (1H, m, CHH), 1.6 (2H, m, CH2), 1.7-1.74 (1H, m, CHH), 1.76-1.91 (2H, m, CH2), 2.11-2.16 (1H, m, CHH), 2.67-3.18 (8H, m); m/z 170 (M+).

reactant | Trimethylsilyl cyanide | 3 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | 1-azabicyclo[3.3.1]nonan-4-one | 2.5 g | N12CCC(C(CCC1)C2)=O | C8H13NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | zinc iodide | 0.15 g | [I-].[Zn+2].[I-]
product | 4-Aminomethyl-4-hydroxy-1-azabicyclo[3.3.1]nonane | 2.2 g | NCC1(CCN2CCCC1C2)O | C9H18N2O
